US05486466
To a solution of 114 mg of sodium borohydride in 1.5 ml of 80% aqueous methanol, cooled to 0° C., was added within 5 minutes a solution of 214 mg of tert-butyl (4R, 7S)-12,14-bis(tert-butyldimethylsilyloxy)-1,3,4,5,6,7,8,10-octahydro-4-(methoxycarbonyl)-11-methyl-6,10-dioxo-9,2,5-benzoxathiaazacyclododecine-7-carbamate in 1.5 ml of methanol/tetrahydro-furan (1:1, v/v). The solution was stirred at 0° C. for 30 minutes, and then poured into ice-cold 0.5N hydrochloric acid. The mixture was extracted with ethyl acetate, and the organic layer was washed with brine, and dried over sodium sulfate. The solvent was evaporated in vacuo to yield 181 mg of tert-butyl (4R, 7S)-12, 14-bis (tert-butyldimethylsilyloxy)-1,3,4,5,6,7,8, 10-octahydro-4-hydroxymethyl-11-methyl-6,10-dioxo-9,2,5-benzoxathiaazacyclododecine-7-carbamate as an amorphous solid. This material was treated with ammonium fluoride in methanol in an analogous manner to the procedure described in Example 13 to yield, after crystallization from ethyl acetate/methanol/hexane, tert-butyl (4R, 7S)-1,3,4,5,6,7,8,10 -octahydro-12,14-dihydroxy-4-hydroxymethyl-11-methyl-6,10-dioxo-9,2,5-benzoxathiaazacyclododecine-7-carbamate as a white solid.

reactant | sodium borohydride | 114 mg | [BH4-].[Na+]
reactant | tert-butyl (4R, 7S)-12,14-bis(tert-butyldimethylsilyloxy)-1,3,4,5,6,7,8,10-octahydro-4-(methoxycarbonyl)-11-methyl-6,10-dioxo-9,2,5-benzoxathiaazacyclododecine-7-carbamate | 214 mg | [Si](C)(C)(C(C)(C)C)OC=1C=C(C2=C(C(OC[C@@H](C(N[C@@H](CSC2)C(=O)OC)=O)NC(=O)OC(C)(C)C)=O)C1C)O[Si](C)(C)C(C)(C)C | C33H56N2O9SSi2
solvent | methanol | 1.5 ml | CO | CH4O
solvent | methanol tetrahydro-furan | 1.5 ml | CO.O1CCCC1
product | tert-butyl (4R, 7S)-12, 14-bis (tert-butyldimethylsilyloxy)-1,3,4,5,6,7,8, 10-octahydro-4-hydroxymethyl-11-methyl-6,10-dioxo-9,2,5-benzoxathiaazacyclododecine-7-carbamate | 181 mg | [Si](C)(C)(C(C)(C)C)OC=1C=C(C2=C(C(OC[C@@H](C(N[C@@H](CSC2)CO)=O)NC(=O)OC(C)(C)C)=O)C1C)O[Si](C)(C)C(C)(C)C | C32H56N2O8SSi2
